US04638004
8 g (0.1 mol) of chloroacetonitrile are added dropwise to a stirred suspension of 18 g (0.1 mol) of 2-hydroxybenzenesulphonamide and 15 g (0.1 mol) of potassium carbonate in 250 ml of acetonitrile, and stirring is continued for a further 16 hours at 55° C. to 60° C. when the addition is complete. The reaction mixture obtained is filtered under suction, and the residue is evaporated down and triturated with water. The solid obtained is dried on clay. 14 g (66% of theory) of 2-cyanomethoxyphenylsulphonamide of melting point 184° to 185° C. are obtained.

reactant | chloroacetonitrile | 0.1 mol, 8 g | ClCC#N | C2H2ClN
reactant | 2-hydroxybenzenesulphonamide | 0.1 mol, 18 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | potassium carbonate | 0.1 mol, 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 2-cyanomethoxyphenylsulphonamide | 14 g, 66% | C(#N)COC1=C(C=CC=C1)S(=O)(=O)N | C8H8N2O3S
